US09315475B2
Step 5: Preparation of tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-(hydroxymethyl)morpholine-4-carboxylate
To ethyl [(2S,5S)-4-benzyl-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-2-yl]methanol (1 eq.) in EtOH (0.4 M) at rt were added Boc2O (1.2 eq), triethylamine (1 eq) and 20% Pd(OH)2 (0.2 eq.). The reaction was degassed and then shaken in a parr apparatus under 45 psi of H2 for 16 hrs. The reaction mixture was filtered on celite and concentrated. The residue was diluted in EtOAc and the organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated. The crude product was used as such for the next step.

reactant | ethyl [(2S,5S)-4-benzyl-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-2-yl]methanol | 1 eq. | C(C)C(O)[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C21H37NO3Si
reactant | Boc2O | 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
solvent | EtOH | 0.4 M | CCO | C2H6O
catalyst | Pd(OH)2 | 0.2 eq. | [OH-].[OH-].[Pd+2]
product | tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-(hydroxymethyl)morpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CO | C17H35NO5Si
